US08008298B2
To a microwave vial was added 0.032 gm (0.075 mM) 1-[2-(3-Amino-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one followed by 0.75 ml of 1M tetrabutylammonium fluoride in THF. The vial was sealed and placed in a 80° C. oil bath for two hours then stirred at room temperature overnight. The mixture was diluted with 10 ml ethyl acetate, rinsed (3×50 ml) water, dried over magnesium sulfate, filtered and concentrated on a rotary evaporator. Purification on a preparative silica gel thin layer chromatography plate (5/95 MeOH/CH2Cl2) gave 0.014 gm (64% yield) of 1-[2-(3-Amino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one, M+1 295, M.P. 239-241° C.

reactant | 1-[2-(3-Amino-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.075 mM, 0.032 gm | NC=1C=C(C=CC1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C23H32N4O2Si
reactant | tetrabutylammonium fluoride | 1M, 0.75 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-(3-Amino-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.014 gm, 64% yield | NC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C17H18N4O
